US06730670B2
Thiomorpholine-4-carboxylic acid (4-methoxy-7-phenyl-benzo[b]thiophen-2-yl)-amide
A stirred solution of (4-methoxy-7-phenyl-benzo[b]thiophen-2-yl)-carbamic acid benzyl ester (200 mg, 0.513 mmol) in dioxane (5 ml) was heated with thiomorpholine (10 eq., 5.13 mmol) for 68 h at reflux under argon. After cooling the reaction the solvents were evaporated and the residue was chromatographed over silica gel eluting with heptane/EtOAc (1:2). The product fractions were then combined, evaporated and dried under vacuum at 60° C. to afford the pure title product (94 mg, 47% yield) as a light brown solid MS m/e=383.2 (M−H).

reactant | (4-methoxy-7-phenyl-benzo[b]thiophen-2-yl)-carbamic acid benzyl ester | 0.513 mmol, 200 mg | C(C1=CC=CC=C1)OC(NC1=CC2=C(S1)C(=CC=C2OC)C2=CC=CC=C2)=O | C23H19NO3S
reactant | thiomorpholine | 5.13 mmol, 10 eq. | N1CCSCC1 | C4H9NS
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | Thiomorpholine-4-carboxylic acid (4-methoxy-7-phenyl-benzo[b]thiophen-2-yl)-amide | 94 mg, 47% yield | COC1=CC=C(C=2SC(=CC21)NC(=O)N2CCSCC2)C2=CC=CC=C2 | C20H20N2O2S2
